US06995263B2
a] 2-Methyl-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid ethyl ester
To an acetonitrile (50 ml) solution of (Z)-4,4,4-trifluoro-3-hydroxy-1-(4-trifluoromethyl-phenyl)-but-2-en-1-one (4.7 g, 17 mmol; D. Barrett, P. D. Bentley, T. R. Perrior, Synthetic Commun. 1996, 26, 3401–3406) was added ethyl-3-aminocrotonate (4.27 g, 33 mmol) under an argon atmosphere. The mixture was heated at reflux for 12 h. The solvent was removed under reduced pressure and the residue purified by column chromatography (silica gel, n-heptane/ethyl acetate) to yield 2.2 g (5.8 mmol, 35%) of the title compound as yellow crystals.

reactant | (Z)-4,4,4-trifluoro-3-hydroxy-1-(4-trifluoromethyl-phenyl)-but-2-en-1-one | 17 mmol, 4.7 g | FC(/C(=C/C(=O)C1=CC=C(C=C1)C(F)(F)F)/O)(F)F | C11H6F6O2
reactant | ethyl-3-aminocrotonate | 33 mmol, 4.27 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-Methyl-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid ethyl ester | 5.8 mmol, 2.2 g, 35% | C(C)OC(C1=C(N=C(C=C1C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C)=O | C17H13F6NO2
